US04992471
2'-Bromo-4'-nitro-1,2,2,3,3,4,4,5,5,6,6-undecafluorocyclohexanecarboxanilide.
1,2,2,3,3,4,4,5,5,6,6-Undecafluorocyclohexanecarbonyl fluoride estimated to be of 60% purity (10.9 grams; 0.02 mole) and triethylamine (2 grams; 0.02 mole) were placed in 25 ml of diethyl ether. 2-Bromo-4-nitroaniline (11.35 grams; 0.02 mole) in 75 ml of diethyl ether was added dropwise at ambient temperature of about 25° C. The reaction mixture was then stirred for 11/2 hours. TLC showed no remaining aniline starting material. The reaction mixture was washed with water three times and with dilute sodium bicarbonate solution once, and thereafter dried. The solvent was then removed by evaporation. The product residue was chromatographed on silica gel HPLC with ethyl acetate:hexane 1:5, which yielded 14.5 grams of product containing occluded solvent. It was recrystallized from hexane and air dried, yielding 5.0 grams (48%) of purified product melting at 98°-101° C. An additional 1 gram was obtained from the mother liquor for a total yield of 57%.

reactant | 1,2,2,3,3,4,4,5,5,6,6-Undecafluorocyclohexanecarbonyl fluoride | FC1(C(C(C(C(C1(F)F)(F)F)(F)F)(F)F)(F)F)C(=O)F | C7F12O
reactant | triethylamine | 0.02 mole, 2 grams | C(C)N(CC)CC | C6H15N
reactant | 2-Bromo-4-nitroaniline | 0.02 mole, 11.35 grams | BrC1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H5BrN2O2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 75 ml | C(C)OCC | C4H10O
product | 2'-Bromo-4'-nitro-1,2,2,3,3,4,4,5,5,6,6-undecafluorocyclohexanecarboxanilide | 14.5 grams | BrC1=C(NC(=O)C2(C(C(C(C(C2(F)F)(F)F)(F)F)(F)F)(F)F)F)C=CC(=C1)[N+](=O)[O-] | C13H4BrF11N2O3
